US05059697
Preparation of 4,5-dichlorophthalic anhydride
A mixture of 5.0 grams (22.7 mmol) of 4,5,-dichlorotetrahydrophthalic anhydride and of activated carbon (Darco KB-60, 1.0 gram) was slurried with 10 mL of 1,2,4-trichlorobenzene and heated to 190° C. for 25 h. The reaction mixture was then filtered while hot and the filtrate was allowed to cool to room temperature, at which time the product precipitated out of solution. After the addition of 5 mL of hexanes to ensure complete precipitation, the product was collected and washed with hexanes. Drying in a vacuum dessicator (60° C., 0.25 mm Hg, 24 h) gave 1 (3.9 g, 80% yield, 99.6% purity by GC), mp 185°-16.5° C. (lit mp 187° C.).

reactant | 4,5,-dichlorotetrahydrophthalic anhydride | 22.7 mmol, 5.0 grams | ClC1CC2C(C(=O)OC2=O)C=C1Cl | C8H6Cl2O3
solvent | 1,2,4-trichlorobenzene | 10 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 4,5-dichlorophthalic anhydride | 80% yield | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
